US08227431B2
Preparation of ((2R,4R)-3-acetoxy-5-(6-(3-chlorobenzylamino)-9H-purin-9-yl)-4-fluoro-3,4-dimethyl-tetrahydrofuran-2-yl)methyl benzoate
To a stirred solution of ((2R,4R)-3-acetoxy-5-(6-chloro-9H-purin-9-yl)-4-fluoro-3,4-dimethyl-tetrahydrofuran-2-yl)methyl benzoate (about 0.4 g, 0.86 mmol) in ethanol (about 5 ml) was added 3-chlorobenzylamine (about 1.26 ml, 10.38 mmol) and refluxed for about 20 minutes. Completion of the reaction mixture monitored by thin-layer chromatography, water added to the reaction mixture and the aqueous layer was extracted with ethyl acetate and the combined organic layers were washed with brine and dried over sodium sulphate. Concentration under reduced pressure and purification by silica gel column chromatography using 40% ethyl acetate in hexane as eluent furnished title compound (0.30 g) as a colorless gummy mass. Yield: 61.2%; 1H NMR (300 MHz, CDCl3): δ 8.42 (s, 1H), 8.06-8.01 (m, 4H), 7.58-7.24 (m, 6H), 6.56 (d, 1H, J=22.8 Hz), 6.45 (bs, 1H), 4.84-4.78 (m, 3H), 4.49-4.42 (m, 1H), 2.17 (s, 3H), 1.89 (d, 3H, J=2.4 Hz), 1.46 (d, 3H, J=23.1 Hz); Mass: [M+1]+ 568 (50%), [M+Na]+ 590 (70%); IR cm−: 3782, 3414, 2929, 2294, 2177, 1619, 1274, 1061, 712; HPLC: 96%.

reactant | ((2R,4R)-3-acetoxy-5-(6-chloro-9H-purin-9-yl)-4-fluoro-3,4-dimethyl-tetrahydrofuran-2-yl)methyl benzoate | 0.86 mmol, about 0.4 g | C(C1=CC=CC=C1)(=O)OC[C@H]1OC([C@](C1(C)OC(C)=O)(C)F)N1C2=NC=NC(=C2N=C1)Cl | C21H20ClFN4O5
reactant | 3-chlorobenzylamine | 10.38 mmol, about 1.26 ml | ClC=1C=C(CN)C=CC1 | C7H8ClN
reactant | water | O | H2O
solvent | ethanol | about 5 ml | C(C)O | C2H6O
product | ((2R,4R)-3-acetoxy-5-(6-(3-chlorobenzylamino)-9H-purin-9-yl)-4-fluoro-3,4-dimethyl-tetrahydrofuran-2-yl)methyl benzoate | 0.30 g, Yield: 61.2% | C(C1=CC=CC=C1)(=O)OC[C@H]1OC([C@](C1(C)OC(C)=O)(C)F)N1C2=NC=NC(=C2N=C1)NCC1=CC(=CC=C1)Cl | C28H27ClFN5O5
